US05093332
A mixture of 2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine (5 g) and Lawesson's reagent (3.8 g) in dimethoxyethane (25 ml) was heated under reflux for seven hours. The solvent was removed under reduced pressure and the residue was chromatographed over silica gel with chloroform/methanol/acetic acid (90:8:2, v/v/v) as the eluent. The fractions containing the desired product were combined and evaporated to dryness to yield 1.4 g. Two recrystallizations from ethyl acetate/hexane gave pure 2,3-dihydro-4,4-dioxo-6-sulfamoyl-2-thiono-1H-thieno[2,3-b][1,4]thiazine, mp 219°-221° C.

reactant | 2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine | 5 g | O=C1NC2=C(S(C1)(=O)=O)SC(=C2)S(N)(=O)=O | C6H6N2O5S3
reactant | Lawesson's reagent | 3.8 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dimethoxyethane | 25 ml | C(OC)COC | C4H10O2
product | 2,3-dihydro-4,4-dioxo-6-sulfamoyl-2-thiono-1H-thieno[2,3-b][1,4]thiazine | O=S1(C2=C(NC(C1)=S)C=C(S2)S(N)(=O)=O)=O | C6H6N2O4S4
